US06211242B1
A solution of p-anisidine (615 mg), cyclopentanone (420 mg) and acetic acid (2 ml) in methanol (30 ml) was cooled to 0° C., and sodium cyanoborohydride (315 mg) was added portionwise. The resulting solution was stirred at ambient temperature for 2 hours. The reaction mixture was then basified with 1N aqueous sodium hydroxide, and extracted with ethyl acetate. The organic extract was washed with brine, dried over sodium sulfate, and concentrated. The residue was purified by column chromatography (SiO2 30 g, diethyl ether:n-hexane=1:3) to give N-cyclopentyl-p-anisidine (530 mg).

reactant | p-anisidine | 615 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | cyclopentanone | 420 mg | C1(CCCC1)=O | C5H8O
reactant | sodium cyanoborohydride | 315 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | N-cyclopentyl-p-anisidine | 530 mg | C1(CCCC1)NC1=CC=C(OC)C=C1 | C12H17NO
